US06927221B2
3-1-[(4-Mesityl-3-pyridyl)amino]ethylidenetetrahydro-2-furanone
p-Toluenesulfonic acid monohydrate (0.2 g, 1.18 mmol) was added to a solution of 4-mesityl-3-pyridinamine (5.0 g, 24 mmol) and α-acetyl-γ-butyrolactone (6.0 g, 47 mmol) in toluene (100 mL), followed by heating under reflux for three days while removing water using a Dean-Stark apparatus. The mixture was evaporated, and the resulting crystals were washed with 60% diethyl ether/ethyl acetate, to give the title compound (6.0 g) as white crystals.

reactant | 4-mesityl-3-pyridinamine | 24 mmol, 5.0 g | C1(=C(C(=CC(=C1)C)C)C1=C(C=NC=C1)N)C | C14H16N2
reactant | α-acetyl-γ-butyrolactone | 47 mmol, 6.0 g | C(C)(=O)C1C(=O)OCC1 | C6H8O3
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-Toluenesulfonic acid monohydrate | 1.18 mmol, 0.2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 3-1-[(4-Mesityl-3-pyridyl)amino]ethylidenetetrahydro-2-furanone | 6.0 g | C1(=C(C(=CC(=C1)C)C)C1=C(C=NC=C1)NC(C)=C1C(OCC1)=O)C | C20H22N2O2
